US04898938
Crystalline Cefadroxil monohydrate
Cefadroxil monomethylformamide solvate (50 g) prepared according to example 3 and having K.F. 1.4% was slurried in isopropyl alcohol (250 ml) containing 40 ml of water at 48° C. for 150'. The mixture was cooled to +2° C. and crystalline cefadroxil monohydrate was collected.

reactant | Cefadroxil monomethylformamide | 50 g | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC(=CC3)O)N)SC1)C(=O)O.CNC=O
reactant | water | 40 ml | O | H2O
solvent | isopropyl alcohol | 250 ml | C(C)(C)O | C3H8O
product | Cefadroxil monohydrate | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C3=CC=C(C=C3)O)N)SC1)C(=O)O.O | InChI=1S/C16H17N3O5S.H2O/c1-7-6-25-15-11(14(22)19(15)12(7)16(23)24)18-13(21)10(17)8-2-4-9(20)5-3-8;/h2-5,10-11,15,20H,6,17H2,1H3,(H,18,21)(H,23,24);1H2/t10-,11-,15-;/m1./s1
